US09260375B2
3-(Trans-4-t-butyldimethylsilyloxycyclohexyl)-2-hydroxy-2-isopropylsuccinic acid (510 mg, 1.31 mmol) was dissolved in acetic anhydride (5.5 mL), and the solution was stirred at 120° C. for 18 h. The acetic anhydride was evaporated under reduced pressure and the residue thus obtained was subjected to silica gel column chromatography (hexane-ethyl acetate 50:1) to give 293 mg of 2-(trans-4-t-butyldimethylsilyloxycyclohexyl)-3-isopropylmaleic anhydride as oil (yield: 63%).

reactant | 3-(Trans-4-t-butyldimethylsilyloxycyclohexyl)-2-hydroxy-2-isopropylsuccinic acid | 1.31 mmol, 510 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)C(C(C(=O)O)(C(C)C)O)C(=O)O | C19H36O6Si
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | acetic anhydride | 5.5 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(trans-4-t-butyldimethylsilyloxycyclohexyl)-3-isopropylmaleic anhydride | 293 mg, yield: 63% | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)/C=1/C(=O)OC(\C1\C(C)C)=O | C19H32O4Si
